US09193716B2
Step A: 2,2-Dimethyl-N-(4-octylphenyl)-1,3-dioxan-5-amine
To a mixture of 4-n-octylaniline (0.205 g; 1 mmol) and 2,2-dimethyl-1,3-dioxan-5-one (Helvetica Chimica Acta, 2003, 86, 2467; 0.13 g; 1 mmol) and NaBH(OAc)3 in 1,2 dichloroethane (3.5 ml), AcOH (0.06 ml; 1 mmol) was added and the mixture was stirred for 2 h at room temperature under N2, diluted to 20 ml with Et2O and washed with 1N NaOH, H2O, brine, dried over anhydrous MgSO4 and filtered. The filtrate was evaporated under reduced pressure and the residue was purified crystallization from hexane to give the title compound (0.2 g; 63%) as a colourless solid. 1H-NMR (CDCl3) 6.97 (d, 2H, J=8.4 Hz); 6.54 (d, 2H, J=8.4 Hz); 4.1 (dd, broad s, 3H, J=4.2, 11.9 Hz); 3.74 (dd, 2H, J=4.2, 11.9 Hz); 3.4 (m, 1H); 2.47 (t, 2H, J=7.91 Hz); 1.55 (m, 2H+H2O); 1.46 (s, 3H); 1.43 (s, 3H); 1.25 (m, 10H); 0.86 (m, 3H).

reactant | 4-n-octylaniline | 1 mmol, 0.205 g | C(CCCCCCC)C1=CC=C(N)C=C1 | C14H23N
reactant | 2,2-dimethyl-1,3-dioxan-5-one | 1 mmol, 0.13 g | CC1(OCC(CO1)=O)C | C6H10O3
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | AcOH | 1 mmol, 0.06 ml | CC(=O)O | C2H4O2
solvent | 1,2 dichloroethane | 3.5 ml | ClCCCl | C2H4Cl2
solvent | Et2O | CCOCC | C4H10O
product | 2,2-Dimethyl-N-(4-octylphenyl)-1,3-dioxan-5-amine | 0.2 g, 63% | CC1(OCC(CO1)NC1=CC=C(C=C1)CCCCCCCC)C | C20H33NO2
